US07858796B2
3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(4-fluorophenyl)-1H-indole-7-carboxamide was prepared according to the procedure for intermediate 11. 5-(4-fluorophenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide (20 mg, 0.059 mmol) was reacted with triethyl amine (0.03 mL, 0.236 mmol) and 3-chloropropylsulfonyl chloride (0.03 mL, 0.118 mmol) to give 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(4-fluorophenyl)-1H-indole-7-carboxamide, which was used in the next step without further purification.

reactant | 5-(4-fluorophenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.059 mmol, 20 mg | FC1=CC=C(C=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H20FN3O
reactant | triethyl amine | 0.236 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropylsulfonyl chloride | 0.118 mmol, 0.03 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
product | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(4-fluorophenyl)-1H-indole-7-carboxamide | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=C(C=C1)F)C(=O)N | C23H25ClFN3O3S
